US05057614
A solution of 4.12 g of 2-methylindole in 75 ml of benzene was treated with 9.2 ml of a 3M solution of methylmagnesium iodide in diethyl ether and the resulting solution was stirred under nitrogen for 0.5 hour. 2.0 g of dibromomaleimide were added and the mixture was heated to reflux for 14 hours. The cooled mixture was evaporated, dissolved in 200 ml of dichloromethane and acidified with 100 ml of 2M hydrochloric acid. The organic layer was separated, washed with 100 ml of water, dried and evaporated. The residue was triturated with dichloromethane and the obtained solid was recrystallized from acetone/water to give 1.1 g of 3,4-bis(2-methyl-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 311°-313° C.

reactant | 2-methylindole | 4.12 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | methylmagnesium iodide | C[Mg]I
reactant | dibromomaleimide | 2.0 g | BrC1=C(C(=O)NC1=O)Br | C4HBr2NO2
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,4-bis(2-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 1.1 g | CC=1NC2=CC=CC=C2C1C=1C(NC(C1C1=C(NC2=CC=CC=C12)C)=O)=O | C22H17N3O2
